US04067723
A solution of 3-(1-cyano-1-phenylethyl)-pyridazine (1 g.) in ethylene glycol (10 ml.) and water (1 ml.) containing potassium hydroxide (0.3 g.) was heated at reflux for 6 hours. The yellow solution was diluted with water (40 ml.) and extracted with chloroform (3 × 25 ml.), dried over magnesium sulphate, filtered and evaporated to give a cream-coloured solid (0.8 g.). 3-(1-Phenylethyl)pyridazine (0.5 g.), m.p. 44°-45° C., was obtained from the cream-coloured solid in the form of colourless crystals by recrystallisation from cyclohexane.

reactant | 3-(1-cyano-1-phenylethyl)-pyridazine | 1 g | C(#N)C(C)(C1=CC=CC=C1)C=1N=NC=CC1 | C13H11N3
reactant | potassium hydroxide | 0.3 g | [OH-].[K+]
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
solvent | water | 1 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 3-(1-Phenylethyl)pyridazine | 0.5 g | C1(=CC=CC=C1)C(C)C=1N=NC=CC1 | C12H12N2
